US07638521B2
d) 3-Methoxycarbonyl-1-(7-methoxyquinol-4-yl)-1H-indole
3.46 g (25 mmol) of potassium carbonate and 1.94 g (10 mmol) of 4-chloro-7-methoxyquinoline are added to 1.75 g (10 mmol) of 3-methoxycarbonyl-1H-indole in 50 cm3 of dimethylacetamide under an argon atmosphere. After stirring at a temperature in the region of 140° C. for 20 hours, the reaction mixture is cooled and diluted with 300 cm3 of ethyl acetate and 300 cm3 of water. The organic phase is separated off by settling and washed with three times 300 cm3 of water and 300 cm3 of saturated aqueous sodium chloride solution and then it is dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue is purified by flash chromatography [eluent: cyclohexane/ethyl acetate (8/2 and then 7/3 by volume)]. After concentrating the fractions to dryness under reduced pressure (2.7 kPa), 1.7 g of 3-methoxycarbonyl-1-(7-methoxyquinol-4-yl)-1H-indole are obtained in the form of a yellow foam. Mass spectrum (EI): m/e 332 (M+•), m/e 301.

reactant | potassium carbonate | 25 mmol, 3.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloro-7-methoxyquinoline | 10 mmol, 1.94 g | ClC1=CC=NC2=CC(=CC=C12)OC | C10H8ClNO
reactant | 3-methoxycarbonyl-1H-indole | 10 mmol, 1.75 g | COC(=O)C1=CNC2=CC=CC=C12 | C10H9NO2
solvent | dimethylacetamide | 50 cm3 | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | 300 cm3 | C(C)(=O)OCC | C4H8O2
solvent | water | 300 cm3 | O | H2O
product | 3-Methoxycarbonyl-1-(7-methoxyquinol-4-yl)-1H-indole | COC(=O)C1=CN(C2=CC=CC=C12)C1=CC=NC2=CC(=CC=C12)OC | C20H16N2O3
